US04390699
To a mixture of 2.9 g (4.54 mmol) 4-methoxy-N,14-bis(2,2,2-trichloroethoxycarbonyl)-morphinan-6-one in 130 ml ethanol were added 15 g (280.4 mmol) NH4Cl and this mixture was stirred and refluxed. During 0.5 h 12 g (177 mg) activated zinc powder were added portionwise and the resulting mixture was refluxed for 1 h. After cooling and filtration, the filtrate was evaporated. The residue was dissolved in water, basified with saturated NaHCO3 solution and extracted with CHCl3. The organic layer was washed with brine, dried and evaporated to give an oil which was crystallized with isopropyl ether to yield 690 mg (53%) 14-hydroxy-4-methoxymorphinan-6-one, m.p. 137°-139°, [α]D26 --66.5°. (C 1.08, CHCl3).

reactant | 4-methoxy-N,14-bis(2,2,2-trichloroethoxycarbonyl)-morphinan-6-one | 4.54 mmol, 2.9 g | COC1=CC=CC=2C[C@@H]3[C@@]4(CCC(C[C@@]4(C12)CCN3C(=O)OCC(Cl)(Cl)Cl)=O)C(=O)OCC(Cl)(Cl)Cl | C23H23Cl6NO6
reactant | NH4Cl | 280.4 mmol, 15 g | [NH4+].[Cl-]
reactant | ethanol | 130 ml | C(C)O | C2H6O
catalyst | zinc | [Zn] | Zn
product | 14-hydroxy-4-methoxymorphinan-6-one | 690 mg, 53% | O[C@@]12CCC(C[C@]13C=1C(=CC=CC1C[C@H]2NCC3)OC)=O | C17H21NO3
